US06090825
5-(2-{4-[5-(4-Fluoro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperazin-1-yl}-ethyl)-2-methoxy-benzenesulfonamide
A solution of 1-[5-(4-fluoro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperazine (0.15 g; 0.42 mmol) in dry dioxane (5 ml) is treated with 5-(2-chloroethyl)-2-methoxy-benzenesulfonamide (0.25 g; 1.0 mmol), sodium iodide (0.15 g; 1.0 mmol) and diisopropylethylamine (0.36 ml; 2.09 mmol) and heated to 100 C. for 16 hours. The reaction mixture is partitioned between ethyl acetate (40 ml) and dilute sodium bicarbonate (20 ml). The aqueous phase is extracted with ethyl acetate (20 ml). The combined organic phases are washed with saturated brine (10 ml), dried over sodium sulfate and concentrated to dryness. Purification by radial chromatography on silica gel using a methanol-ethyl acetate gradient (1%-20%) is followed by a second chromatography using a methanol-dichloromethane gradient (1%-5%). Crystallization from ethyl acetate/hexane affords the product as a white solid (0.14 g; 56%). HNMR (CDCL3): 7.81 (d, 1H, J=2.4 Hz), 7.54 (m, 2H), 7.42 (dd, 1H, J=8.7, 2.0 Hz), 7.14 (t, 2H, J=8.8 Hz), 7.02 (d, 1H, J=8.7 Hz), 5.16 (s, 2H), 4.04 (s, 3H), 4.01 (qt, 2H, J=8.8 Hz), 3.62 (m, 4H), 2.85 (m, 2H), 2.66 (m, 6H).

reactant | 1-[5-(4-fluoro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperazine | 0.42 mmol, 0.15 g | FC1=CC=C(C=C1)C1=C(N=C(O1)N1CCNCC1)COCC(F)(F)F | C16H17F4N3O2
reactant | 5-(2-chloroethyl)-2-methoxy-benzenesulfonamide | 1.0 mmol, 0.25 g | ClCCC=1C=CC(=C(C1)S(=O)(=O)N)OC | C9H12ClNO3S
reactant | sodium iodide | 1.0 mmol, 0.15 g | [I-].[Na+]
reactant | diisopropylethylamine | 2.09 mmol, 0.36 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 5-(2-{4-[5-(4-Fluoro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperazin-1-yl}-ethyl)-2-methoxy-benzenesulfonamide | 0.14 g, 56% | FC1=CC=C(C=C1)C1=C(N=C(O1)N1CCN(CC1)CCC=1C=CC(=C(C1)S(=O)(=O)N)OC)COCC(F)(F)F | C25H28F4N4O5S
